US04515968
PREPARATION OF 2-(2-FURYL)-4-METHYL-1,3-DITHIOLANE
Into a 100 ml reaction flask equipped with reflux condenser, thermometer and magnetic stirring bar and hot plate with magnetic stirring apparatus is placed 0.5 grams paratoluenesulfonic acid, 5 ml cyclohexane and 5.4 grams (0.05 moles) of 1,2-propanedithiol. Over a period of 25 minutes with stirring is added 4.8 grams (0.05 moles) of 2-furaldehyde. The reaction mass is then heated to reflux and refluxed for a period of 8 hours while removing water of reaction. At the end of the refluxing period, the reaction mass is cooled to room temperature and transferred to a separatory funnel. The reaction mass is washed with one 50 ml portion of aqueous saturated sodium chloride, and dried over anhydrous sodium sulfate. The reaction mass is then filtered and the filtrate is distilled on a Microvigreux column yielding the following three fractions:

reactant | 1,2-propanedithiol | 0.05 moles, 5.4 grams | C(C(C)S)S | C3H8S2
reactant | 2-furaldehyde | 0.05 moles, 4.8 grams | O1C(=CC=C1)C=O | C5H4O2
solvent | cyclohexane | 5 ml | C1CCCCC1 | C6H12
product | 2-(2-FURYL)-4-METHYL-1,3-DITHIOLANE | O1C(=CC=C1)C1SCC(S1)C | C8H10OS2
